US06630600B1
4-[2-(4-Formylphenoxy)ethyl]benzoic acid (8.11 g; 30 mmole), TBTU (10.6 g; 33 mmole) and DMAP (8.1 g; 66 mmole) were dissolved in DMF (85 ml). The reaction mixture was cooled on an ice bath and isopropylamine (12 g; 200 mmole) dissolved in DME (100 ml) was added. The reaction mixture was stirred at room temperature over night. A large amount of water was added and the mixture was extracted with ethyl acetate. The organic phase was washed with potassium hydogen sulfate (0.3 M), water and brine and dried with sodium sulfate. Evaporation gave 8 g (85.6% yield) of 4-[2-(4-formylphenoxy)ethyl]-N-isopropylbenzamide.

reactant | 4-[2-(4-Formylphenoxy)ethyl]benzoic acid | 30 mmole, 8.11 g | C(=O)C1=CC=C(OCCC2=CC=C(C(=O)O)C=C2)C=C1 | C16H14O4
reactant | TBTU | 33 mmole, 10.6 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | isopropylamine | 200 mmole, 12 g | C(C)(C)N | C3H9N
reactant | water | O | H2O
catalyst | DMAP | 66 mmole, 8.1 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 85 ml | CN(C)C=O | C3H7NO
solvent | DME | 100 ml | COCCOC | C4H10O2
product | 4-[2-(4-formylphenoxy)ethyl]-N-isopropylbenzamide | 8 g, 85.6% yield | C(=O)C1=CC=C(OCCC2=CC=C(C(=O)NC(C)C)C=C2)C=C1 | C19H21NO3
